US07741327B2
A mixture of (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester (0.86 g, 2.32 mmol) in tetrahydrofuran (15 mL) and water (5 mL) was treated with lithium hydroxide monohydrate (0.12 g, 2.85 mmol). The reaction was stirred at 25° C. for 3 h. At this time, the reaction was diluted with water (75 mL) and extracted with diethyl ether (1×75 mL). The aqueous layer was acidified with a 2N aqueous hydrochloric acid solution and then extracted with ethyl acetate (3×50 mL). The combined organics were dried over magnesium sulfate, filtered, rinsed with ethyl acetate and concentrated in vacuo to afford (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid (0.71 g, 86%) as a light orange solid: HR-ES-MS m/z calculated for C17H18NO4F3 [M+H]+ 358.1261, observed 358.1262. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.88 (d, J=6.5 Hz, 3H), 0.93 (d, J=6.5 Hz, 3H), 1.50 (m, 1H), 1.57-1.70 (m, 1H), 1.70-1.86 (m, 1H), 4.16 (d, J=17.9 Hz, 1H), 4.28 (d, J=17.9 Hz, 1H), 4.64 (dd, J=11.6, 4.2 Hz, 1H), 4.93 (s, 1H), 7.65-7.77 (m, 4H), 12.88 (br. s., 1H).

reactant | (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid methyl ester | 2.32 mmol, 0.86 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)C(F)(F)F)=O)=O | C18H20F3NO4
reactant | lithium hydroxide monohydrate | 2.85 mmol, 0.12 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | (S)-4-methyl-2-[2-oxo-4-(3-trifluoromethyl-phenoxy)-2,5-dihydro-pyrrol-1-yl]-pentanoic acid | 0.71 g, 86% | CC(C[C@@H](C(=O)O)N1C(C=C(C1)OC1=CC(=CC=C1)C(F)(F)F)=O)C | C17H18F3NO4
